US07825128B2
34) 2-(2-Chloro-5-thiophen-2-yl-pyrimidin-4-yloxy)-ethanol
Preparation according to procedures 4b and 3 with the use of 2,4-dichloro-5-iodopyrimidine, 1,2-ethandiol and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
reactant | 1,2-ethandiol | C(CO)O | C2H6O2
product | 2-(2-Chloro-5-thiophen-2-yl-pyrimidin-4-yloxy)-ethanol | ClC1=NC=C(C(=N1)OCCO)C=1SC=CC1 | C10H9ClN2O2S
